US03944560
3,7-Dihydroxy-3-isopropylaminomethyl-3,4-dihydro-2H-1,5-benzodioxepin (2.53 g.; 10 millimoles) from Example 89 dissolved in 50 ml. of diethyl ether is left 10 hours at ambient temperature with 0.46 g. (11 millimoles) of diazomethane in 25 ml. of diethyl ether. Excess diazomethane is destroyed by addition of a few drops of acetic acid. The solution then is washed with water, dried over anhydrous sodium sulfate, and evaporated to dryness to give 3-hydroxy-3-isopropylaminomethyl-7-methoxy-3,4-dihydro-2H-1,5-benzodioxepin.

reactant | 3,7-Dihydroxy-3-isopropylaminomethyl-3,4-dihydro-2H-1,5-benzodioxepin | 10 millimoles, 2.53 g | OC1(COC2=C(OC1)C=CC(=C2)O)CNC(C)C | C13H19NO4
reactant | diazomethane | 11 millimoles | [N+](=[N-])=C | CH2N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-hydroxy-3-isopropylaminomethyl-7-methoxy-3,4-dihydro-2H-1,5-benzodioxepin | OC1(COC2=C(OC1)C=CC(=C2)OC)CNC(C)C | C14H21NO4
